2131-07-10 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE Placed
   - Insulin gtt still on this AM
   History obtained from Patient, Family / Friend
   Allergies:
   History obtained from Patient, Family / FriendNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 4.5 units/hour
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-10**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.5
   HR: 89 (83 - 123) bpm
   BP: 91/50(59) {91/47(58) - 119/77(84)} mmHg
   RR: 21 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  5,927 mL
                                                                    829 mL
   PO:
                                                                  1,200 mL
             TF:
   IVF:
                                                                  4,727 mL
                                                                    829 mL
   Blood products:
   Total out:
                                                                  5,400 mL
                                                                  1,800 mL
   Urine:
                                                                  5,400 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    527 mL
                                                                   -971 mL
   Respiratory support
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   421 K/uL
   14.4 g/dL
   115 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.1 mEq/L
   5 mg/dL
   107 mEq/L
   138 mEq/L
   41.8 %
   13.4 K/uL
        [image002.jpg]
                             [**2131-7-8**]  12:54 PM
                             [**2131-7-8**]  06:15 PM
                             [**2131-7-8**]  06:40 PM
                             [**2131-7-9**]  12:15 AM
                             [**2131-7-9**]  12:34 PM
                             [**2131-7-9**]  05:22 PM
                             [**2131-7-9**]  07:47 PM
                             [**2131-7-9**]  10:12 PM
                             [**2131-7-10**]  01:20 AM
   WBC
   13.4
   Hct
   41.8
   Plt
   421
   Cr
   0.8
   0.9
   0.8
   0.8
   0.7
   0.7
   TCO2
   7
   Glucose
   [**Telephone/Fax (3) 1184**]53
   164
   92
   65
   115
   Other labs: Ca++:8.9 mg/dL, Mg++:1.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   19 year-old woman with type I DM, who presents with DKA in setting of
   having missed approximately 24hr of insulin.
   # DKA: first episode.  Trigger likely insulin non-adheranace.  No
   evidence of infection or ischemic events.  Gap 29 on presentation,
   currently 12.  UCx w/ normal vaginal flora (lactobacilli).
   - Transition from Insulin gtt to SC insulin (NPH 64 qam & 34 qpm
   home dosing)
   - Con't IVF & electrolyte repletion
   - F/u Bld & throat cx
   - [**Last Name (un) 303**] [**Name (NI) 167**], to see (she will need outpt appt arranged before
   discharge w/ her primary diabetologist, Dr. [**First Name4 (NamePattern1) 627**] [**Last Name (NamePattern1) 1151**])
   # Metabolic acidosis: persists despite closing gap.  No diarrhea.
   Chloride nml.  ? RTA.
   -          Repeat urine for ketones
   -          Consider further w/u for RTA if does not resolve
   ICU Care
   Nutrition: Diabetic
   Glycemic Control:  NPH & SS
   Lines:
   PICC Line - [**2131-7-9**] 12:32 PM
   Prophylaxis:
   DVT: ambulate
   Communication:  Mother & Patient (pt does not seem to have capacity to
   make her own medical decisions, so would contact mother regarding any
   significant medical decisions)
   Code status: Full code
   Disposition:  Likely to medical [**Hospital1 **] in afternoon

2131-07-10 14:02:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   19 yr old with DKA
   24 Hour Events:
 PICC LINE - START [**2131-7-9**] 12:32 PM
   Given 4 liters of LR and hyperchloremia resolved, bicarb trending up,
   AG closed.
   Able to ttake pos
   Still on continuous insuling drip
   remains tachycardic and orthostatic by pulse
                       History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-10**] 02:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 104 (83 - 117) bpm
   BP: 101/60(70) {91/47(58) - 119/77(85)} mmHg
   RR: 18 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
             Total In:
                                                                  5,927 mL
                                                                  1,811 mL
   PO:
                                                                  1,200 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  4,727 mL
                                                                  1,691 mL
   Blood products:
   Total out:
                                                                  5,400 mL
                                                                  2,975 mL
   Urine:
                                                                  5,400 mL
                                                                  2,975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    527 mL
                                                                 -1,164 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   14.4 g/dL
   421 K/uL
   115 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.1 mEq/L
   5 mg/dL
   107 mEq/L
   138 mEq/L
   41.8 %
   13.4 K/uL
        [image002.jpg]
                             [**2131-7-8**]  12:54 PM
                             [**2131-7-8**]  06:15 PM
                             [**2131-7-8**]  06:40 PM
                             [**2131-7-9**]  12:15 AM
                             [**2131-7-9**]  12:34 PM
                             [**2131-7-9**]  05:22 PM
                             [**2131-7-9**]  07:47 PM
                             [**2131-7-9**]  10:12 PM
                             [**2131-7-10**]  01:20 AM
   WBC
   13.4
   Hct
   41.8
   Plt
   421
   Cr
   0.8
   0.9
   0.8
   0.8
   0.7
   0.7
   TCO2
   7
   Glucose
   [**Telephone/Fax (3) 1184**]53
   164
   92
   65
   115
   Other labs: Ca++:8.9 mg/dL, Mg++:1.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   19 yo woman with diabetic ketoacidosis secondary to medication
   noncompliance. Gap closed but remains hypovolemic (versus autonomic
   instability from long standing diabetes)
   -If she eats bfast, we will transition to home regimen of insulin,
   advance diet, overlap drip with SC NPH for at least one hour, then shut
   off insuling drip and follow finger sticks closely.
   - Have [**Last Name (un) 303**] see patient
   - Try another liter LR for volume resuscitation - as she is still tachy
   with postural changes. But making adequate urine so may be an issue of
   autonomic instability -
   -ICU-Prophylaxis compression boots, ambulate, Mid line for access.
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-9**] 12:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill